US04284631
A mixture of ethyl 2-(2-bromoethoxyimino)-3-oxobutyrate (syn isomer, 168 g.), sulfuryl chloride (87.3 g.) and formic acid (168 ml.) was stirred at 40° C. for 10 minutes and at room temperature for 5.5 hours. After adding water (1 l.) to the resultant solution, the mixture was extracted with methylene chloride. The extract was washed with water, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate, and then concentrated in vacuo to give ethyl 2-(2-bromoethoxyimino)-4-chloro-3-oxobutyrate (syn isomer, 156 g.), oil.

reactant | ethyl 2-(2-bromoethoxyimino)-3-oxobutyrate | 168 g | BrCCON=C(C(=O)OCC)C(C)=O | C8H12BrNO4
reactant | sulfuryl chloride | 87.3 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | formic acid | 168 ml | C(=O)O | CH2O2
solvent | water | 1 l | O | H2O
product | ethyl 2-(2-bromoethoxyimino)-4-chloro-3-oxobutyrate | 156 g | BrCCON=C(C(=O)OCC)C(CCl)=O | C8H11BrClNO4
